US04874775
N-(4-chlorophenyl)-N-(pyridin-4-ylmethyl)methanesulfonamide
A 3.3 g. portion of 4-(4-chlorophenylaminomethyl)pyridine was dissolved in 15 ml. of dichloromethane, and 2.7 g. of potassium carbonate and 1.6 ml. of methanesulfonyl chloride were added. The mixture was stirred at ambient temperature for several days, adding another 0.5 ml. of methanesulfonyl chloride in the process. The mixture was then diluted with dichloromethane, extracted with aqueous sodium bicarbonate and with water, dried over magnesium sulfate and evaporated. The residue was taken up in dichloromethane and chromatographed over silica gel, eluting first with dichloromethane and then with 9:1 dichloromethane:ethyl acetate. The product-containing fractions were combined and evaporated, and the residue was triturated with petroleum ether and diethyl ether to obtain 2.1 g. of the desired product.

reactant | 4-(4-chlorophenylaminomethyl)pyridine | ClC1=CC=C(C=C1)NCC1=CC=NC=C1 | C12H11ClN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-chlorophenyl)-N-(pyridin-4-ylmethyl)methanesulfonamide | ClC1=CC=C(C=C1)N(S(=O)(=O)C)CC1=CC=NC=C1 | C13H13ClN2O2S
